US04721794
Preparation of N,N-Dimethyl-N'-[5-(4-methoxybenzylthio)thiophene-2-sulfonyl]formamidine
A solution of 4-methoxy-α-toluenethiol (7.7 g, 0.05 mol) in DMF (10 ml) was added dropwise to a stirred mixture of sodium hydride (2.50 g, 50% oil dispersion, 0.054 mol) in DMF (40 ml). When gas evolution was complete, N,N-dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine (14.85 g; 0.05 mol) was added and the resulting mixture was stirred for 1 hour at 25° C. The reaction mixture was diluted with water and the solid that separated was collected, washed with water and dried to give 15.36 g., m.p. 92°-101° C. Recrystallization from 1-chlorobutane gave material with m.p. 110°-111.5° C.

reactant | 4-methoxy-α-toluenethiol | 0.05 mol, 7.7 g | COC1=CC=C(C=C1)CS | C8H10OS
reactant | sodium hydride | 0.054 mol, 2.50 g | [H-].[Na+]
reactant | N,N-dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine | 0.05 mol, 14.85 g | CN(C=NS(=O)(=O)C=1SC(=CC1)Br)C | C7H9BrN2O2S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N,N-Dimethyl-N'-[5-(4-methoxybenzylthio)thiophene-2-sulfonyl]formamidine | CN(C=NS(=O)(=O)C=1SC(=CC1)SCC1=CC=C(C=C1)OC)C | C15H18N2O3S3
